### PR TITLE
[Merged by Bors] - feat: add Homeomorph.pointReflection

### PR DESCRIPTION
**Pull request by grunweg**
This is `Equiv.pointReflection` as a homeomorphism.
The motivating use case is for a homeomorphism on the real line in #29077.

While at it, also upgrade `AffineEquiv.pointReflection` to a `ContinuousAffineEquiv`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Very probably, this can be generalised to additive torsors: I tried for a while, and then gave up as this was too annoying. Here is as far as I got:
```
import Mathlib
def Homeomorph.pointReflection'' {G X : Type*} [AddGroup G] [TopologicalSpace X]
    [AddTorsor G X] [TopologicalSpace G] [ContinuousVAdd G X] --[ContinuousConstVSub G X]
    --[ContinuousVSub G X]
    [AddGroup X] [ContinuousAdd X] [ContinuousSub X] [ContinuousNeg X] (x : X) : X ≃ₜ X where
  toEquiv := Equiv.pointReflection x
  continuous_toFun := by
    dsimp [Equiv.pointReflection]
    apply Continuous.comp
    · fun_prop
    fun_prop
  continuous_invFun := by
    dsimp [Equiv.pointReflection]
    fun_prop
```

**Comment by edegeltje** [comment]
> Very probably, this can be generalised to additive torsors: I tried for a while, and then gave up as this was too annoying. 

i'm half sure that there is no good way to express this yet; effectively we want to say that `(. +_v x)` is an open map, but afaict we don't have good ways to express this with the typeclass system. In particular, consider `X` to have the indiscrete topology, and `G` any which satisfies `ContinuousAdd`, `ContinuousSub`, etc. Then we still have `ContinuousVAdd`, but for `VSub` to be continuous, `G` needs to have the indiscrete topology as well.

**Comment by peabrainiac** [comment]
I think the class to use here is `IsTopologicalAddTorsor`. We already have `Homeomorph.vaddConst` in that setting; you can define `Homeomorph.constVSub` analogously and then define `Homeomorph.pointReflection` as a composition of the two just like how `Equiv.pointReflection` is defined as a composition of `Equiv.vaddConst` and `Equiv.constVSub`.

`Homeomorph.constVSub` probably also deserves a multiplicative version because `Equiv.constVSub` has one; `Equiv.pointReflection` doesn't.

**Comment by grunweg** [comment]
Thanks, this is very helpful!

**Comment by grunweg** [comment]
I have generalised the result accordingly.

File: Mathlib/Topology/Algebra/Group/Torsor.lean [hunk 1]
```diff
@@ -98,6 +98,21 @@ theorem IsTopologicalTorsor.to_isTopologicalGroup : IsTopologicalGroup V where
 def Homeomorph.smulConst (p : P) : V ≃ₜ P where
   __ := Equiv.smulConst p
 
+/-- The map `v ↦ v /ₛ p` as a homeomorphism: `Equiv.constSDiv` as a homeomorphism -/
```
Comment (peabrainiac) [inline Mathlib/Topology/Algebra/Group/Torsor.lean]:
```suggestion
/-- The map `p' ↦ p /ₛ p'` as a homeomorphism: `Equiv.constSDiv` as a homeomorphism -/
```
Both the constant and the function input live in `P` here - similarly two lines below.

File: Mathlib/Topology/Algebra/Group/Torsor.lean [hunk 2]
```diff
@@ -98,6 +98,21 @@ theorem IsTopologicalTorsor.to_isTopologicalGroup : IsTopologicalGroup V where
...
+@[to_additive (attr := simps!)
+/-- The map `v ↦ v -ᵥ p` as a homeomorphism: `Equiv.constVSub` as a homeomorphism -/]
+def Homeomorph.constSDiv [ContinuousInv V] (p : P) : P ≃ₜ V where
```
Comment (peabrainiac) [inline Mathlib/Topology/Algebra/Group/Torsor.lean]: You could get rid of the `ContinuousInv V` assumption here by manually applying `IsTopologicalTorsor.to_isTopologicalGroup` before calling `fun_prop`; I don't know if that's something we want to do though, since in all practical situations you will have both instances already available anyway

File: Mathlib/Topology/Algebra/Group/Torsor.lean [hunk 3]
```diff
@@ -98,6 +98,21 @@ theorem IsTopologicalTorsor.to_isTopologicalGroup : IsTopologicalGroup V where
...
+  __ := Equiv.constSDiv p
+
+/-- `Equiv.pointReflection` as a homeomorphism -/
+def Homeomorph.pointReflection {V P : Type*} [AddGroup V] [TopologicalSpace V] [AddTorsor V P]
+    [TopologicalSpace P] [IsTopologicalAddTorsor P] [ContinuousNeg V] (p : P) : P ≃ₜ P :=
+  (Homeomorph.constVSub p).trans (Homeomorph.vaddConst p)
+
+@[simp]
+lemma Homeomorph.coe_pointReflection (x : X) :
+    (Homeomorph.pointReflection x : X → X) = Equiv.pointReflection x := rfl
```
Comment (peabrainiac) [inline Mathlib/Topology/Algebra/Group/Torsor.lean]: `X` isn't defined anywhere, I don't think this currently builds - you probably meant to introduce the same variables as in the definition above, right?

**Review by peabrainiac — COMMENTED** [review]
CI is currently failing - while I don't understand the specific error message, I'm guessing merging master should make that problem go away. Also some comments on the code.

File: Mathlib/Topology/Algebra/Group/Torsor.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Topology/Algebra/Group/Torsor.lean]: Good question! Let's wait a second opinion?

File: Mathlib/Topology/Algebra/Group/Torsor.lean [hunk 4]
```diff
@@ -98,6 +98,22 @@ theorem IsTopologicalTorsor.to_isTopologicalGroup : IsTopologicalGroup V where
 def Homeomorph.smulConst (p : P) : V ≃ₜ P where
   __ := Equiv.smulConst p
 
+/-- The map `p' ↦ p' /ₛ p` as a homeomorphism: `Equiv.constSDiv` as a homeomorphism -/
+@[to_additive (attr := simps!)
+/-- The map `p' ↦ p' -ᵥ p` as a homeomorphism: `Equiv.constVSub` as a homeomorphism -/]
```
Comment (peabrainiac) [inline Mathlib/Topology/Algebra/Group/Torsor.lean]:
```suggestion
/-- The map `p' ↦ p /ₛ p'` as a homeomorphism: `Equiv.constSDiv` as a homeomorphism -/
@[to_additive (attr := simps!)
/-- The map `p' ↦ p -ᵥ p'` as a homeomorphism: `Equiv.constVSub` as a homeomorphism -/]
```

Comment (peabrainiac) [reply Mathlib/Topology/Algebra/Group/Torsor.lean]: Otherwise LGTM

**Comment by grunweg** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/Group/Torsor.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/Torsor.lean]: I think Ben's suggestion is good: because this only appears in the continuity proofs, there's no risk of anything messy showing up in the unfolding.

**Review by ADedecker — APPROVED** [review]
While, you're at it, could you also bundle it as a [ContinuousAffineEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/ContinuousAffineEquiv.html#ContinuousAffineEquiv) in the affine case? Thanks!

bors d+

File: Mathlib/Topology/Algebra/Group/Torsor.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Topology/Algebra/Group/Torsor.lean]: I just pushed a commit doing so: is this what you had in mind? (I kept the composition of homeomorphisms, this is technically not localised to the continuity proofs.)

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/Torsor.lean]: This is not what I had in mind: Ben suggested removing `ContinuousInv` from `Homeomorph.constSDiv`, not `Homeomorph.pointReflection`. I think it is important that no extra let appear in the definition of `pointReflection`, which is the case with Ben's suggested approach.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/Torsor.lean]: In fact it's not clear to me why your current proof uses continuity of the inversion of `V`, can't you just remove it?

**Comment by grunweg** [comment]
I've pushed a tweak; that's certainly better. Given the heat in my office, I won't vouch for it being fully correct (even though I'm confident it's *better*).

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 5]
```diff
@@ -509,7 +509,8 @@ variable {P₁}
 
 open Function
 
-/-- Point reflection in `x` as a permutation. -/
+/-- Point reflection in `x` as a permutation:
+this is `Equiv.pointReflection` as an affine equivalence. -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]:
```suggestion
/-- The affine equivalence given by reflection about the point `x`.
This is `Equiv.pointReflection` as an `AffineEquiv`. -/
```

File: Mathlib/Topology/Algebra/ContinuousAffineEquiv.lean [hunk 6]
```diff
@@ -309,6 +309,31 @@ end ReflSymmTrans
 
 section
 
+variable (k)
+variable [TopologicalSpace V₁] [IsTopologicalAddTorsor P₁]
+
+/-- Point reflection in `x` as a permutation:
+this is `Equiv.pointReflection` as a continuous affine equivalence. -/
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/ContinuousAffineEquiv.lean]:
```suggestion
/-- The affine homeomorphism given by reflection about the point `x`. 
This is `Equiv.pointReflection` as a `ContinuousAffineEquiv`. -/
```

File: Mathlib/Topology/Algebra/Group/Torsor.lean [hunk 7]
```diff
@@ -98,6 +98,24 @@ theorem IsTopologicalTorsor.to_isTopologicalGroup : IsTopologicalGroup V where
 def Homeomorph.smulConst (p : P) : V ≃ₜ P where
   __ := Equiv.smulConst p
 
+/-- The map `p' ↦ p /ₛ p'` as a homeomorphism: `Equiv.constSDiv` as a homeomorphism -/
+@[to_additive (attr := simps!)
+/-- The map `p' ↦ p -ᵥ p'` as a homeomorphism: `Equiv.constVSub` as a homeomorphism -/]
+def Homeomorph.constSDiv (p : P) : P ≃ₜ V := by
+  let : ContinuousInv V :=
+    IsTopologicalTorsor.to_isTopologicalGroup (V := V) (P := P) |>.toContinuousInv
+  exact { toEquiv := Equiv.constSDiv p }
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Group/Torsor.lean]:
```suggestion
def Homeomorph.constSDiv (p : P) : P ≃ₜ V where
  toEquiv := Equiv.constSDiv p
  continuous_invFun := by
    have := IsTopologicalTorsor.to_isTopologicalGroup V P
    fun_prop
```

**Review by ADedecker — COMMENTED** [review]
I have to take a break, but I want to make a last suggestion afterwards (sorry, I delegated a bit early)

**Comment by grunweg** [comment]
Indeed, that spelling is even better. Thanks, I have applied all suggestions (and will give you time for another pass).

**Comment by grunweg** [comment]
Three days without comment shall suffice - I'm happy to fix any follow-up comments also.
bors merge
